US03931239
A solution of 4,5-dimethyl-6-oxo-7-isopropyl1,2,7,8-tetrahydro-6H-indeno[5,4-b]furan-2-carboxylic acid (0.01 mole) in dimethylformamide (50 ml.) at 15°C. is treated with sodium hydride (50% dispersion in mineral oil, (0.-25 mole). The solution is warmed to 50°C., cooled to 25°C., treated with methyl iodide (0.025 mole) then warmed to 50°C. Thereafter, water (50 ml.) and 10 N sodium hydroxide (2 ml.) are added; the reaction is heated at 95°C. for 0.5 hours then poured into cold 1.0N hydrochloric acid to afford 4,5,7-trimethyl-6-oxo-7-isopropyl-1,2,7,8-tetrahydro-6H-indeno[5,4-b]furan-2-carboxylic acid.

reactant | 4,5-dimethyl-6-oxo-7-isopropyl1,2,7,8-tetrahydro-6H-indeno[5,4-b]furan-2-carboxylic acid | 0.01 mole | CC1=C(C=2C(C(CC2C2=C1OC(C2)C(=O)O)C(C)C)=O)C | C17H20O4
reactant | sodium hydride | [H-].[Na+]
reactant | methyl iodide | 0.025 mole | CI | CH3I
reactant | sodium hydroxide | 10 N, 2 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1.0N | Cl | ClH
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | 50 ml | O | H2O
product | 4,5,7-trimethyl-6-oxo-7-isopropyl-1,2,7,8-tetrahydro-6H-indeno[5,4-b]furan-2-carboxylic acid | CC1=C(C=2C(C(CC2C2=C1OC(C2)C(=O)O)(C(C)C)C)=O)C | C18H22O4
